US04543257
Following the procedure described for the preparation of 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane from 4-(2'.hydroxyethyl)-2-azetidinone and using trimethyl orthoformate instead of 2,2-dimethoxypropane one obtains 8-oxo-2-methoxy-3-oxa-1-azabicyclo[4.2.0]octane.

reactant | 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | O=C1CC2CCOC(N12)(C)C | C8H13NO2
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
product | 8-oxo-2-methoxy-3-oxa-1-azabicyclo[4.2.0]octane | O=C1CC2CCOC(N12)OC | C7H11NO3
